### PR TITLE
lingering admit

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Checklist

~~- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`~~

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/contra.v [hunk 1]
```diff
@@ -464,9 +464,7 @@ Proof. by case: y. Qed.
 Canonical bool_neq nP x y := @NeqRHS nP bool x (wrap _) (@bool_neqP nP x y).
 Canonical true_neq nP b := BoolNeqRHS (@is_true_nPropP nP b).
 Local Fact false_neqP P (b : positedBool P) : (b <> false :> bool) = P.
-Proof.
-  admit.
-Admitted.
```
Comment (Tragicus) [inline classical/contra.v:469]: Oops, thank you.

**Review by Tragicus — APPROVED** [review]

File: classical/contra.v (hunk 1 above)
Comment (proux01) [reply classical/contra.v:469]: My bad, I guess I didn't spot it during the review.
